### PR TITLE
feat(Space): Add integrability of norm powers

### PR DESCRIPTION
**Pull request by gloges**
Adds results for the integrability of `x ↦ ‖x‖ ^ p` on subsets of `Space d`.

First establishes necessary and sufficient conditions for integrability on `{x | ‖x‖ < b}` and `{x | b ≤ ‖x‖}` by reducing to the 1d radial integral and using integrability of `r ↦ r ^ s` on `(0,b)` and `[b,∞)`. These are then used for integrability on more general sets, based on whether they are bounded or contain the origin.

### CODE REVIEW

**Comment by gloges** [comment]
t-space-time

**Comment by gloges** [comment]
RFC

File: PhysLean/SpaceAndTime/Space/Integrals/NormPow.lean [hunk 1]
```diff
@@ -0,0 +1,160 @@
...
+open MeasureTheory
+
+private lemma npow_indicator_rpow_eq {n : ℕ} {s : Set ℝ} (hs : 0 ∉ s) (p : ℝ) :
+    (fun r ↦ r ^ n • s.indicator (fun r ↦ r ^ p) r) = s.indicator (fun r ↦ r ^ (n + p)) := by
+  ext r
+  by_cases hr : r ∈ s
+  · grind [Set.indicator_of_mem, smul_eq_mul, add_comm, Real.rpow_add_natCast]
+  · simp [hr]
+
+private lemma integrableOn_indicator_iff {s : Set ℝ} (hs : MeasurableSet s) (t : Set ℝ)
```
Comment (jstoobysmith) [inline PhysLean/SpaceAndTime/Space/Integrals/NormPow.lean]: not equivalent to: 
[MeasureTheory.integrableOn_indicator_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/IntegrableOn.html#MeasureTheory.integrableOn_indicator_iff)?

Comment (gloges) [reply PhysLean/SpaceAndTime/Space/Integrals/NormPow.lean]: Thanks, that's exactly it! Looks like this was added to MathLib [last week](https://github.com/leanprover-community/mathlib4/commit/940b0812feeb43f73ac24283f539221cec0f59de#diff-3f5b5fe42fb0ac65799a2fe0d431c37565ad7839f21cbc957b1fc4825ba68af3R371); should I just add a TODO to change over to the MathLib version of the lemma when available?

Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/NormPow.lean]: If you change the name to _root_.MeasureTheory.integrableOn_indicator_iff, then when we bump PhysLib, this will give us an error, and remind us to remove it

File: PhysLean/SpaceAndTime/Space/Integrals/NormPow.lean [hunk 2]
```diff
@@ -46,8 +46,9 @@ private lemma npow_indicator_rpow_eq {n : ℕ} {s : Set ℝ} (hs : 0 ∉ s) (p :
   · grind [Set.indicator_of_mem, smul_eq_mul, add_comm, Real.rpow_add_natCast]
   · simp [hr]
 
-private lemma integrableOn_indicator_iff {s : Set ℝ} (hs : MeasurableSet s) (t : Set ℝ)
-    (f : ℝ → ℝ) : IntegrableOn (s.indicator f) t volume ↔ IntegrableOn f (s ∩ t) volume := by
+private lemma root.MeasureTheory.integrableOn_indicator_iff {s : Set ℝ} (hs : MeasurableSet s)
```
Comment (jstoobysmith) [inline PhysLean/SpaceAndTime/Space/Integrals/NormPow.lean]: Sorry I meant 
```
_root_.MeasureTheory.integrableOn_indicator_iff
``` 

This was my fault - sorry.

**Comment by jstoobysmith** [comment]
Except for the above, this PR looks good to me now. Many thanks.

File: PhysLean/SpaceAndTime/Space/Integrals/NormPow.lean (hunk 2 above)
Comment (gloges) [reply PhysLean/SpaceAndTime/Space/Integrals/NormPow.lean]: All good! I've made the change to `_root_`.

**Review by jstoobysmith — APPROVED** [review]
Approved - many thanks. Will merge shortly :).
